US07232903B2
In a 50 mL volume glass vessel equipped with a stirrer and a thermometer were placed 5.0 g (29.1 mmol) of 5-chloroanthranilic acid and 20 mL (156 mmol) of 15 wt. % ammonia methanol solution. The reaction was carried out for 2 hours at room temperature. After the reaction was complete, the reaction mixture was concentrated under reduced pressure, to obtain 5.0 g (isolated yield: 95%) of ammonium 5-chloroanthranilate as pale yellow solid.

reactant | 5-chloroanthranilic acid | 29.1 mmol, 5.0 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | ammonia methanol | CO.N
product | ammonium 5-chloroanthranilate | 5.0 g, yield: 95% | ClC1=CC=C(C(C(=O)[O-])=C1)N.[NH4+] | InChI=1S/C7H6ClNO2.H3N/c8-4-1-2-6(9)5(3-4)7(10)11;/h1-3H,9H2,(H,10,11);1H3
